US06998490B2
10 g (38.9 mmoles) of 2-[(diphenylmethyl)thio]acetamide are dissolved in 100 ml of dichloromethane. The solution is added with 15.7 g of 68% w/w ε-phthalimidoperhexanoic acid, keeping the temperature at about 20° C., and after 6 h is diluted with water, adjusting the pH to 8–9 with aqueous ammonia. The resulting phases are separated and the organic one is evaporated to dryness, to obtain 8.5 g of 2-[(diphenylmethyl)sulfinyl]acetamide (modafinil). Molar yield: 80%.

reactant | 2-[(diphenylmethyl)thio]acetamide | 38.9 mmoles, 10 g | C1(=CC=CC=C1)C(SCC(=O)N)C1=CC=CC=C1 | C15H15NOS
reactant | ammonia | N | H3N
reactant | water | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-[(diphenylmethyl)sulfinyl]acetamide | 8.5 g, yield: 80% | C1(=CC=CC=C1)C(S(=O)CC(=O)N)C1=CC=CC=C1 | C15H15NO2S
